US08877744B2
a) (R)-6,6-Difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepane-3-thione
In a manner analogous to that described for the preparation of intermediate B7, the reaction of (R)-6,6-difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one (intermediate B6″.1) (1.455 g, 3.52 mmol) with Lawesson's reagent (1.42 g, 3.52 mmol), yielded the title compound (1.44 g, 95% yield) as a colorless oil. MS (ISP): m/z=430.1 [M+H]+.

reactant | (R)-6,6-difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one | 3.52 mmol, 1.455 g | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)I)F)F | C14H15F3INO2
reactant | Lawesson's reagent | 3.52 mmol, 1.42 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | (R)-6,6-Difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepane-3-thione | 1.44 g, 95% yield | FC1([C@@](NC(COC1(C)C)=S)(C)C1=C(C=CC(=C1)I)F)F | C14H15F3INOS
